US07538123B2
(3) 7-Allyloxy-5-methoxy-2,2-dimethyl-4-oxochromane
2.90 g of 7-allyloxy-5-hydroxy-2,2-dimethyl-4-oxochromane was dissolved in 50 ml of N,N-dimethylformamide. Thereafter, 2.42 g of potassium carbonate and 2.32 g of iodomethane were added to the reaction solution, and the obtained mixture was then stirred at room temperature for 3 days. Thereafter, the reaction solution was diluted with ethyl acetate. The resultant product was washed with a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 2.79 g of the subject compound.

reactant | 7-allyloxy-5-hydroxy-2,2-dimethyl-4-oxochromane | 2.90 g | C(C=C)OC1=CC(=C2C(CC(OC2=C1)(C)C)=O)O | C14H16O4
reactant | potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 2.32 g | IC | CH3I
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-Allyloxy-5-methoxy-2,2-dimethyl-4-oxochromane | 2.79 g | C(C=C)OC1=CC(=C2C(CC(OC2=C1)(C)C)=O)OC | C15H18O4
